US07714009B2
4-[[2-[(4-Bromo-2-methoxy-6-methylphenyl)amino]-1-methyl-1H-benzimidazol-7-yl](isopropyl)amino]benzonitrile
A mixture of 4-[(2-chloro-1-methyl-1H-benzimidazol-7-yl)(isopropyl)amino]benzonitrile (50 mg, 0.154 mmol) and 4-bromo-6-methylaniline (100 mg, 0.46 mmol) was stirred at 120° C. for 3 days. The mixture was dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate and water, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a solution of 33% ethyl acetate/hexane. The desired fractions were concentrated in vacuo, and the residual solids were washed with diethyl ether-hexane to give 7.4 mg (9.5%) of the title compound.

reactant | 4-[(2-chloro-1-methyl-1H-benzimidazol-7-yl)(isopropyl)amino]benzonitrile | 0.154 mmol, 50 mg | ClC1=NC2=C(N1C)C(=CC=C2)N(C2=CC=C(C#N)C=C2)C(C)C | C18H17ClN4
reactant | 4-bromo-6-methylaniline | 0.46 mmol, 100 mg | BrC1=CC=C(N)C(=C1)C | C7H8BrN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[[2-[(4-Bromo-2-methoxy-6-methylphenyl)amino]-1-methyl-1H-benzimidazol-7-yl](isopropyl)amino]benzonitrile | 7.4 mg, 9.5% | BrC1=CC(=C(C(=C1)C)NC1=NC2=C(N1C)C(=CC=C2)N(C2=CC=C(C#N)C=C2)C(C)C)OC | C26H26BrN5O
